US08389743B2
1-(4-Bromo-2,6-difluorobenzyl)pyrrolidine
Pyrrolidine (25 mL, 0.30 mol) and sodium triacetoxyborohydride (64 g, 0.30 mol) were added in portions to a stirred solution of Intermediate 18a, 4-Bromo-2,6-difluorobenzaldehyde (53.5 g, 0.24 mol) in dichloromethane (500 mL) on ice bath. The reaction mixture was intensively stirred for 12 h at RT. Water (400 mL) was added followed by addition of 5M aq. NaNSO4 to attain pH ˜2. The organic layer was separated. The aqueous one was extracted with CH2Cl2 (2×200 mL). The organic layers were discarded. The aqueous fraction was alkalized with K2CO3 to pH ˜10, and extracted with CHCl3 (2×300 mL). The organic extract was washed with brine, dried over anhydrous Na2SO4 (100 g) and evaporated in vacuo to give the title compound (52.5 g, 79%, 0.19 mol). LC/MS data: 275.9 and 277.9 (M+H)+ (calculated for C11H12BrF2N, 276.13). 1H NMR data (DMSO-d6): 7.40-7.48 (m, 2H, Ar—H), 3.66 (s, 2H, Ar—CH2), 2.38-2.46 (m, 4H pyrrolidine (CH2)2N), 1.61-1.71 (m, 4H, CH2CH2CH2CH2).

reactant | Pyrrolidine | 0.30 mol, 25 mL | N1CCCC1 | C4H9N
reactant | sodium triacetoxyborohydride | 0.30 mol, 64 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | 4-Bromo-2,6-difluorobenzaldehyde | 0.24 mol, 53.5 g | BrC1=CC(=C(C=O)C(=C1)F)F | C7H3BrF2O
reactant | Water | 400 mL | O | H2O
solvent | dichloromethane | 500 mL | ClCCl | CH2Cl2
product | 1-(4-Bromo-2,6-difluorobenzyl)pyrrolidine | 0.19 mol, 52.5 g, 79% | BrC1=CC(=C(CN2CCCC2)C(=C1)F)F | C11H12BrF2N
